* D:\Shared\LPspice_circuit\self\bone_sweep_analysis\restore\Draft2_baseline.asc
* Generated by LTspice 26.0.2 for Windows.
V1 BUS 0 12
R1 P001 BONE_P 560k
R2 FB P001 6.8k
R3 FB 0 100k
C1 BUS 0 1e-7
C2 BONE_P 0 4.7e-7
V2 BONE_P 0 {VBP}
V3 3V3 0 3.3
R5 N001 3V3 {10k*(3.3/(IREF*3k)-1)}
R6 N001 I_SET 10k
R7 N001 0 10k
C3 I_SET 0 1e-7
C14 I_SENSE OUTA 100pF
R8 STIM_GATE OUTA 10k
X§U2 BONE_N STIM_GATE I_SENSE T2N7002AK_G0_00 ;§pnba 3)1)2
R9 STIM_GATE I_SENSE 10Meg
R10 I_SENSE 0 3k
R_BONE BONE_N BONE_P {RB}
X§U1 I_SET I_SENSE 3V3 0 OUTA OPAx333 ;§pnba In+)In-)V+)V-)OUT
.lib OPAx333.LIB
.param IREF 100u
.step param VBP list 3.3 5 8 10 12 15
.step param RB list 10k 20k 30k 40k 50k 60k 70k 80k 100k 120k 150k
.meas OP IBONE FIND -I(R_BONE)
.meas OP VBONE FIND V(BONE_P,BONE_N)
.meas OP IERR PARAM 100*abs(IBONE-IREF)/IREF
.meas OP PASS PARAM if(IERR<=1,1,0)
.tran 15m startup
* Library below included based on ModelFile attribute of instance X§U2 (C:\Users\Liuxm\AppData\Local\LTspice\lib\sym\Contrib\Toshiba\lvmos\T2N7002AK_G0_00.asy)
.lib Contrib/Toshiba/LVMOS/T2N7002AK_G0_00_enc.lib
.backanno
.end
